US06541638B2
To 1.65 g (2S,4R)-4-Acetylsulfanyl-1-(naphthalene-2-sulfonyl)-pyrrolidine-2-carboxylic acid methyl ester in 220 ml THF were added 220 ml 0.1 N LiOH at 0° C. and the solution was stirred at RT for 1h, concentrated, the inorganic layer was washed with CH2Cl2, acidified and exracted with EtOAc. The organic layer was washed with brine, dried over Na2SO4 and evaporated yielding (2S,4R)-4-Mercapto-1-(naphthalene-2-sulfonyl)-pyrrolidine-2-carboxylic acid as white solid, MS: 337 (MH+).

reactant | (2S,4R)-4-Acetylsulfanyl-1-(naphthalene-2-sulfonyl)-pyrrolidine-2-carboxylic acid methyl ester | 1.65 g | COC(=O)[C@H]1N(C[C@@H](C1)SC(C)=O)S(=O)(=O)C1=CC2=CC=CC=C2C=C1 | C18H19NO5S2
reactant | LiOH | 0.1 N, 220 ml | [Li+].[OH-]
solvent | THF | 220 ml | C1CCOC1 | C4H8O
product | (2S,4R)-4-Mercapto-1-(naphthalene-2-sulfonyl)-pyrrolidine-2-carboxylic acid | S[C@@H]1C[C@H](N(C1)S(=O)(=O)C1=CC2=CC=CC=C2C=C1)C(=O)O | C15H15NO4S2
